* C:\FOSSEE\eSim\library\SubcircuitLibrary\latch_block\latch_block.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 04/09/26 21:16:27

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_U1-Pad1_ Net-_U2-Pad2_ Net-_U1-Pad2_ latchh		
v1  Net-_U2-Pad1_ GND PULSE(0 5 150n 1n 1n 20n 200n)		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ adc_bridge_1		
X2  Net-_U1-Pad3_ Net-_U3-Pad2_ Net-_U1-Pad4_ latchh		
v2  Net-_U3-Pad1_ GND PULSE(0 5 150n 1n 1n 20n 200n)		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ adc_bridge_1		
X3  Net-_U1-Pad5_ Net-_U4-Pad2_ Net-_U1-Pad6_ latchh		
v3  Net-_U4-Pad1_ GND PULSE(0 5 150n 1n 1n 20n 200n)		
U4  Net-_U4-Pad1_ Net-_U4-Pad2_ adc_bridge_1		
X4  Net-_U1-Pad7_ Net-_U5-Pad2_ Net-_U1-Pad8_ latchh		
v4  Net-_U5-Pad1_ GND PULSE(0 5 150n 1n 1n 20n 200n)		
U5  Net-_U5-Pad1_ Net-_U5-Pad2_ adc_bridge_1		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ PORT		

.end
