* C:\FOSSEE\eSim\library\SubcircuitLibrary\latch_test\latch_test.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 04/04/26 19:36:27

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U4  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U3-Pad2_ Net-_U2-Pad2_ Net-_U1-Pad3_ ? d_dlatch		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ PORT		
U3  GND Net-_U3-Pad2_ adc_bridge_1		
U2  GND Net-_U2-Pad2_ adc_bridge_1		

.end
